US08049015B2
2-Bromo-5-(trifluoromethyl)benzaldehyde and bis(pinacolato)diboron were reacted as described in Example 1, Step 8 to provide 2-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-5-trifluoromethyl-benzaldehyde.

reactant | 2-Bromo-5-(trifluoromethyl)benzaldehyde | BrC1=C(C=O)C=C(C=C1)C(F)(F)F | C8H4BrF3O
reactant | bis(pinacolato)diboron | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
product | 2-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-5-trifluoromethyl-benzaldehyde | CC1(OB(OC1(C)C)C1=C(C=O)C=C(C=C1)C(F)(F)F)C | C14H16BF3O3
